US04853389
Step (2) Preparation of 2-Amino-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide
A solution of 2-amino-N-(1,1-dimethylethyl)-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide (0.90 gm, 0.0027 mol) in trifluoroacetic acid (10 mL) was heated to reflux for 1 hour. After cooling, the solvent was evaporated in vacuo and the resulting solid triturated with ether to give 0.50 g, 67% of product, m.p. 213°-215° C., as a colorless solid.

reactant | 2-amino-N-(1,1-dimethylethyl)-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide | 0.0027 mol, 0.90 gm | NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)S(=O)(=O)NC(C)(C)C | C15H21N5O2S
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Amino-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide | 0.50 g, 67% | NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)S(=O)(=O)N | C11H13N5O2S
